US07132428B2
b) 5-(2-Bromo-phenyl)-3-methyl-1H-pyrazolo[4,3-c]isoquinoline (AA)
The preparation took place in analogy to example 34 (D) using 196 mg of 2-bromo-N-(3-methyl-5-phenyl-1H-pyrazole-4-yl)-benzamide, except 6 ml of phosphorous oxychloride was used and the reaction was stirred for 4 hrs. The residue was triturated with dichloromethane to give the title compound as a white solid.

reactant | 2-bromo-N-(3-methyl-5-phenyl-1H-pyrazole-4-yl)-benzamide | 196 mg | BrC1=C(C(=O)NC=2C(=NNC2C2=CC=CC=C2)C)C=CC=C1 | C17H14BrN3O
reactant | phosphorous oxychloride | 6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-(2-Bromo-phenyl)-3-methyl-1H-pyrazolo[4,3-c]isoquinoline | BrC1=C(C=CC=C1)C1=NC2=C(C=3C=CC=CC13)NN=C2C | C17H12BrN3
